Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was referred here by my school"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old ___ female, currently college student,
presents with years long history of depressed mood and passive
suicidal thoughts.

On initial presentation patient endorsed the following:
Patient is found in the ED room. She speaks in low voice, has a
very mild demeanor. Patient reports struggling with low mood and
thoughts of death since middle school years. She reports a lot 
of
stress in her life due to school burdens and conflict with her
family. She reports that her family finds mental illness 
shameful
and are not supportive of her seeking care.
She reports that over past month she has been sleeping more, has
had difficulty getting out of bed and going to classes. She has
low mood and low appetite. She has lost weight and frequently
vomits with meals. She has chronic thoughts that it would be
better if she didn't wake up and fantasizes about being hit by a
car.  She reports cutting in middle school for which she 
received
no care.

She denies symptoms of mania or psychosis.

Patient denies concerns about weight or body image. Denies
intentional weight loss. Reports that even with small meals 
feels
very full and as if can't breath, this is relieved by vomiting.  

   
On current interview patient endorses the following:
Patient state she was brought in by her school after they felt
she was unsafe. She states she had been receiving treatment at
her school, but had recently been having passive suicidal
thoughts. She states many of these thoughts were "I wish I 
should
not wake up" or " I wish I were no longer here". She also states
that one day as she was staring a cars while she was crossing 
the
street she fantasized about getting killed by a car. But she
states she did not plan to walk into traffic at that time, and
she just wanted had a passing thought about dying. She states 
she
no longer has intentions of hurting herself, but had in the 
past.
She states she would cut during middle school due to problems at
school and bullying. At the time she told her parents who told
the school, but nothing happed and she continued to be bullied.
At the time patient endorsed to parents that she was feeling
depressed but her parents did not think it was serious and they
did nothing. Currently the patient states she has informed her
parents about seeing a therapist at school, but they have not
shown any support. She states that other than her family she has
a few friends she trust, however she dislikes speaking about her
feeling with people and does not think she could confide in her
friends about her feelings. Currently patient denies SI, HI, 
AVH,
denies paranoid or persecutory delusions. Does endorse
deregulated eating behavior and has lost over 14lbs in the past 
4
months because she can not tolerate normal amounts of food. She
states that her stomach feels strange, and she complains of
difficulty breathing and general discomfort when she eats a
normal amount of food. She denies doing this to lose weight or
because of concerns of her figure. 

 
Past Medical History:
Past psychiatric history: 
Hospitalizations: none
Current treaters and treatment: recent trial of citalopram from
___
Medication and ECT trials: recent trial of citalopram x1 week,
having headaches
Self-injury: cutting in middle school
Harm to others: none
Access to weapons: none

Past medical history:
None
 
Social History:
___
Family History:
none that patient knows about
 
Physical Exam:
On Admission:

VS: T 97.7 HR 82 BP 104/57 RR 15 O2 sat 100% RA 

General: young thin Asian female in NAD. Well-nourished,
well-developed. Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 -Pupils symmetry and responsiveness to light and accommodation:
PERRLA
 -Visual fields: full to confrontation
 -EOM: full
 -Facial sensation to light touch in all 3 divisions: equal
 -Vacial symmetry on eye closure and smile: symmetric
 -Hearing bilaterally to rubbing fingers: normal
 -Phonation: normal
 -Shoulder shrug: intact
 -Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Negative.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not tested
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Calculations: not assessed
 Abstraction: not assessed
 Visuospatial: not assessed
 Speech: normal rate, low volume, and soft tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 *Appearance:  well appearing young Asian female, appropriately
groomed, no apparent distress
 Behavior: calm and cooperative, no psychomotor agitation or
retardation. 
 *Mood and Affect: "depressed" with congruent and constricted
affect
 *Thought process / *associations:  linear, goal directed, no
looseness of associations
 *Thought Content: denies current SI but endorses history of
chronic passive SI, denies HI/AH/VH, not observed to be
internally preoccupied  
 *Judgment and Insight: fair/limited 

On Discharge:
 *VS:  BP: 108/73; HR: 68; temp: 98.3; resp: 16; O2 sat: 95%  
  Neurological:
    *station and gait: Steady; normal stance & posture, no
truncal ataxia
    *tone and strength: Moves upper and lower extremities
antigravity and with full ROM
    cranial nerves: CN II-XII intact and symmetric
    abnormal movements: None observed
  *Appearance: well appearing young Asian female, appropriately
groomed, no apparent distress
  Behavior: appears superficially cooperative, disengages and
stares off at times during the encounter 
  *Mood and Affect: "better"; affect somewhat dysphoric,
constricted range
  *Thought process: Linear without LOA
  *Thought Content: Denies current SI but concern given report 
of
chronic passive SI; Denies HI; Denies AH/VH; Does not appear to
be responding to internal stimuli
  *Judgment and Insight: Impaired/impaired
  Cognition:
  *Attention, *orientation, and executive function: Alert and
oriented x 3
  *Memory: In tact to interview and recent events
  *Fund of knowledge: Appropriate for level of education
  *Speech: Normal rate, low volume, soft tone
  *Language: Fluent ___ speaker without paraphasic errors

 
Pertinent Results:
 -CBC: WNL with mild anemia  HGB: 11.7, HCT: 36.0
 -BMP: WNL
 -UA: WNL
 -Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.
 -Serum tox: Negative for aspirin, benzos, barbituates, ethanol,
TCAs and acetaminophen.
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the patient was not deemed 
to be at risk of harm to self.  They were also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) MAJOR DEPRESSIVE DISORDER, RECURRENT EPISODE, SEVERE  
 - Provided individual, group, and milieu therapy
 - Discontinued Celexa given lack of effect.
 - Initiated Sertraline 25 mg and patient was given instructions 
to uptitrate to 50 mg following discharge.  

3. SUBSTANCE USE DISORDERS:
#) None

4. MEDICAL
#) No active medical issues

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient did not attend these groups in spite of encouragement 
from staff, and remained largely isolative in her room.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Team spoke with outpatient providers and family members to 
gather collateral and provide clinical updates.

#) INTERVENTIONS
- Medications: As above
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient set up with PHP at ___ 
___ the following day (___)
- Behavioral Interventions: Encouraged distress tolerance/coping 
skills 
- Guardianships: None

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

Our Prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY 
Please take 25 mg for three additional days, then increase to 50 
mg on ___ 
RX *sertraline 50 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MAJOR DEPRESSIVE DISORDER, RECURRENT EPISODE, SEVERE 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___